US08440652B2
To a solution of 4-(6-amino-pyridin-3-yl)-N-cyclopropylbenzenesulfonamide (1.04 g, 3.59 mmol) in DCM (12 mL) was added portionwise N-bromosuccinimide (0.64 g, 3.59 mmol). The reaction was stirred for 1 h, then was filtered. The filtrate was washed with sat. aq. Na2S2O4 (20 mL), sat. aq. NaHCO3 (10 mL), then dried over Na2SO4 and concentrated to give 4-(6-amino-5-bromo-pyridin-3-yl)-N-cyclopropyl-benzenesulfonamide (1.07 g, 81% yield). 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.30 (d, J=2.01 Hz, 1H), 8.12 (d, J=2.01 Hz, 1H), 7.92 (d, J=8.53 Hz, 2H), 7.76 (d, J=8.53 Hz, 2H), 2.19 (tt, J=6.71, 3.58 Hz, 1H), 0.17-0.83 (m, 4H). MS (EI) m/z: 368, 370 [M+H]+. HPLC (Sunfire C18 4.6 mm×50 mm, 10-90% MeCN:10 mM aq. NH4OAc, 2 min gradient) tR=1.68 min, 90% integrated area.

reactant | 4-(6-amino-pyridin-3-yl)-N-cyclopropylbenzenesulfonamide | 3.59 mmol, 1.04 g | NC1=CC=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1 | C14H15N3O2S
reactant | N-bromosuccinimide | 3.59 mmol, 0.64 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-(6-amino-5-bromo-pyridin-3-yl)-N-cyclopropyl-benzenesulfonamide | 1.07 g, 81% yield | NC1=C(C=C(C=N1)C1=CC=C(C=C1)S(=O)(=O)NC1CC1)Br | C14H14BrN3O2S
